.SUBCKT XNOR2X4H7R A B VDD VSS Y
*.PININFO A:I B:I Y:O VDD:B VSS:B
XXI10 BN AN A VDD VSS net19 / TSINV pl=60n pw=310n nl=60n nw=250n
XXI9 net19 VDD VSS Y / INV pl=60n pw=760n nl=60n nw=600n
XXI7 B VDD VSS BN / INV pl=60n pw=310n nl=60n nw=250n
XXI0 A VDD VSS AN / INV pl=60n pw=210n nl=60n nw=170n
XXI4 A AN BN net19 VDD VSS / TG pl=60n pw=190n nl=60n nw=150n
.ENDS
